US04639541
16 g (0.2 moles) of elemental bromine were added dropwise to 18.9 g (0.1 moles) of 4-chlorophenylacetic acid chloride at 95° C. while stirring. The reaction mixture was maintained for a further 2.5 hours at a temperature of 90° C. and then excess bromine was distilled off. The crude product was finally distilled under 16 mb in a temperature range of from 90° C. to 96° C. 22.9 g (0.085 moles) of 4-chlorophenyl-alpha-bromoacetic acid chloride, corresponding to 85% of the theoretical yield, were obtained.

reactant | bromine | 0.2 moles, 16 g | BrBr | Br2
reactant | 4-chlorophenylacetic acid chloride | 0.1 moles, 18.9 g | ClC1=CC=C(C=C1)CC(=O)Cl | C8H6Cl2O
product | 4-chlorophenyl-alpha-bromoacetic acid chloride | 0.085 moles, 22.9 g | ClC1=CC=C(C=C1)C(C(=O)Cl)Br | C8H5BrCl2O
